US06211215B1
In substantially the same manner as in Reference Example 77, ethyl 2-(1-pyrrolyl)-4-thiazolecarboxylate was reduced by lithium aluminum hydride to give 2-(1-pyrrolyl)-4-thiazolylmethanol. The yield was 69%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 111-113° C.

reactant | ethyl 2-(1-pyrrolyl)-4-thiazolecarboxylate | N1(C=CC=C1)C=1SC=C(N1)C(=O)OCC | C10H10N2O2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(1-pyrrolyl)-4-thiazolylmethanol | yield was 69% | N1(C=CC=C1)C=1SC=C(N1)CO | C8H8N2OS
